US04450278
Preparation of 1-methyl-3,4,5-trichloro-pyrazole
To a stirring solution of 250 g (1 mole) of hexachloropropene in 250 ml toluene, there was added 94.4 g (2.05 moles) of methyl hydrazine dropwise.The temperature of the reaction mixture was maintained in the range of about 50° to about 60° C. by the use of external cooling. When the addition of methyl hydrazine was complete, the reaction mixture was cooled to room temperature and 276 g (2 moles) of potassium carbonate was added. The resulting mixture was carefully heated first to about 60° C., then gradually to about 85° to 90° C. Heatingwas carefully monitored to control occasional exotherm and degassing. Afterabout three hours, the heat source was removed and the reaction mixture wasallowed to cool to room temperature. The reaction mixture was diluted with about 500 ml ice water and extracted with methylene chloride. The organic layer (containing the product) was washed twice with water, dried over magnesium sulfate and concentrated on a rotovac to give a red oil (about 275 ml). The red oil was dissolved in hexane and filtered through a short silica column twice to give 133 g of a yellow oil which solidified. Spectra of the solid were identical to those of the product of Example 1.

reactant | hexachloropropene | 1 mole, 250 g | ClC(C(=C(Cl)Cl)Cl)(Cl)Cl | C3Cl6
reactant | methyl hydrazine | 2.05 moles, 94.4 g | CNN | CH6N2
reactant | potassium carbonate | 2 moles, 276 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-3,4,5-trichloro-pyrazole | about 275 ml | CN1N=C(C(=C1Cl)Cl)Cl | C4H3Cl3N2
